US05716936
A The process is performed as described in Example 2A, but starting with 5.3 g of tert-butyl (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(3-methoxyphenyl)sulphonyl-2-pyrrolidinecarboxylate, 0.4 g of 10% palladium-on-charcoal and 100 cm3 of ethanol under a hydrogen atmosphere (130 kPa). After treatment, 3.5 g of (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-(3-methoxyphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid are obtained [Rf=0.3; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (250 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 393 K, δ in ppm): 1.54 (s, 9H: C(CH3)3); from 2.40 to 2.60 and 2.82 (2 mts, 1H each: CH2 at 3); 3.68 and 3.98 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 3.88 (s, 3H: OCH3); 4.11 (mt, 1H: H4); 4.67 (t, J=8 Hz, 1H: H2); 5.72 (d, J=3 Hz, 1H: H5); from 7.00 to 7.65 (mt, 10H: aromatic H); 7.80 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6)); 8.00 (mt, 1H: aromatic H (H2: ortho to the COOH))].

reactant | tert-butyl (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(3-methoxyphenyl)sulphonyl-2-pyrrolidinecarboxylate | 5.3 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)S(=O)(=O)C1=CC(=CC=C1)OC)C(=O)OC(C)(C)C)=O | C39H40FN3O9S
catalyst | palladium-on-charcoal | 0.4 g | [Pd] | Pd
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-(3-methoxyphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 3.5 g | C(C)(C)(C)OC(=O)C1N(C(C(C1)S(=O)(=O)C1=CC(=CC=C1)OC)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C32H34FN3O9S
